US06900313B2
20 g (0.194 mol) valinol are dissolved with 11.64 g (0.194 mol) acetic acid in 60 ml toluol and cooked for 24 h under reflux in the water separator. After cooling the solution is extracted with 10% hydrochloric acid. The aqueous phase is neutralized with 40% sodium hydroxide solution and extracted with diethyl ether. The organic phase is dried via Na2SO4 and the solvent removed. Distillation (112° C.) produces 19.2 g (78%) 4-(S)-isopropyl-2-methyloxazoline as a colourless oil.

reactant | valinol | 0.194 mol, 20 g | N[C@@H](C(C)C)CO | C5H13NO
reactant | acetic acid | 0.194 mol, 11.64 g | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | toluol | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(S)-isopropyl-2-methyloxazoline | 19.2 g, 78% | C(C)(C)[C@@H]1N=C(OC1)C | C7H13NO
